US08476253B2
N-(3-Bromopropyl)-4-nitrobenzamide
30 mL of toluene was added to 3-bromopropylamine hydrobromide (1.20 g, 5.50 mmol), and triethylamine (1.53 mL, 11.0 mmol) was added dropwise with stirring under ice cooling. After the dropwise addition was completed, 4-nitrobenzoyl chloride (928 mg, 5.50 mmol) was added little by little, and the mixture was stirred at room temperature for 15 minutes. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with an aqueous saturated sodium hydrogencarbonate solution, a 0.1 N aqueous hydrochloric acid solution, and saturated sodium chloride solution. The organic layer was dried with anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to give the title compound (1.11 g; yield, 77%) as light yellow crystals.

reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-bromopropylamine hydrobromide | 5.50 mmol, 1.20 g | Br.BrCCCN
reactant | triethylamine | 11.0 mmol, 1.53 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzoyl chloride | 5.50 mmol, 928 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Bromopropyl)-4-nitrobenzamide | 1.11 g, 77% | BrCCCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C10H11BrN2O3
